US04220644
Glycine (60 g., 0.8 mol.) was added to a cooled (5°-10°) solution of 89.6 g. (1.6 mol.) of potassium hydroxide in 200 ml. of water. After complete dissolution 60.8 g. (0.8 mol.) of carbon disulfide was added and the reaction mixture was stirred at 25° for three hours. A solution of 113.6 g. (0.8 mol.) of methyl iodide in 200 ml. of ethanol was added while maintaining the temperature at 25°-30°. The reaction mixture was stirred for two hours at 25°, then concentrated in vacuo and the remaining aqueous phase was basicified to pH 8.0 with aqueous sodium carbonate and extracted with ether. The aqueous phase was acidified to pH 2.5 with dilute hydrochloric acid and extracted with ethyl acetate. The extract was concentrated in vacuo and the residue recrystallized from toluene to give methyl carboxymethyldithiocarbamate.

reactant | Glycine | 0.8 mol, 60 g | NCC(=O)O | C2H5NO2
reactant | potassium hydroxide | 1.6 mol | [OH-].[K+]
reactant | carbon disulfide | 0.8 mol | C(=S)=S | CS2
reactant | methyl iodide | 0.8 mol | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | methyl carboxymethyldithiocarbamate | C(=O)(O)CNC(SC)=S | C4H7NO2S2
